US07259266B2
Step 1. Preparation of ethyl 5,8-dichloro-6-methoxy-2-(trifluoromethyl)-2H-chromene-3-carboxylate
To a solution of ethyl 8-chloro-6-methoxy-2-(trifluoromethyl)-2H-chromene-3-carboxylate prepared as in U.S. Pat. No. 6,271,253 B1 Example 40 (2.32 g, 6.89 mmole) in glacial acetic acid (100 mL) was added Cl2 gas for 0.5 minutes. After standing for 20 min, the solvent was removed in vacuo and the remaining acetic acid was azeotroped with hexanes to give a crystalline solid containing a mixture of regioisomers. The crude product was purified by recrystallization from ethyl acetate-hexanes to give 189 mg (7.4% yield) of the product as colorless needles: EIHRMS m/z 369.9986 (M+, C14H11C2lF3O4, Calc'd 369.9986).

reactant | ethyl 8-chloro-6-methoxy-2-(trifluoromethyl)-2H-chromene-3-carboxylate | ClC=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)OCC)OC | C14H12ClF3O4
reactant | Cl2 | ClCl | Cl2
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | ethyl 5,8-dichloro-6-methoxy-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 189 mg, 7.4% yield | ClC1=C2C=C(C(OC2=C(C=C1OC)Cl)C(F)(F)F)C(=O)OCC | C14H11Cl2F3O4
